US07319101B2
f) Methyl 2,2-Bis-(4-methoxy-phenyl)-6-trifluoromethyl-1,3-benzodioxole-4-carboxylate
4,4′-Dimethoxybenzophenone (213 mg, 0.88 mmol, 1.5 eq.), oxalyl chloride (900 mg, 7.1 mmol, 8 eq.) and methyl 2,3-dihydroxy-5-trifluoromethyl-benzoate (130 mg, 0.59 mmol, 1 eq.) were reacted according to GP2.2. The crude product was purified using flash chromato-graphy (silica gel, hexane/Et2O 10:1) to yield the title compound as a yellowish, very viscous oil.

reactant | 4,4′-Dimethoxybenzophenone | 0.88 mmol, 213 mg, 1.5 eq. | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
reactant | oxalyl chloride | 7.1 mmol, 900 mg, 8 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2,3-dihydroxy-5-trifluoromethyl-benzoate | 0.59 mmol, 130 mg, 1 eq. | OC1=C(C(=O)OC)C=C(C=C1O)C(F)(F)F | C9H7F3O4
product | Methyl 2,2-Bis-(4-methoxy-phenyl)-6-trifluoromethyl-1,3-benzodioxole-4-carboxylate | COC1=CC=C(C=C1)C1(OC2=C(O1)C=C(C=C2C(=O)OC)C(F)(F)F)C2=CC=C(C=C2)OC | C24H19F3O6
